datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:13])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:13])[C:19]([C:20]([H:23])([H:24])[H:25])([H:21])[H:22])[H:12])([H:9])([H:10])[H:11],32.0494
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:21])([C:15](=[S:16])[H:22])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[H:20])[H:7])([H:5])[H:6].[C:12]([C:13]([S:14][H:21])[C:15](=[S:16])[H:22])([H:17])([H:18])[H:19],38.4928
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[H:8]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[H:8])[H:4],10.9202
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])[H:16])[H:10],113.847
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])=[C:4]1[C:5]1=[C:6]([H:14])[C:7]([H:15])=[C:8]([H:16])[C:9]1([H:17])[H:18]>>[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])=[C:4]1[C:5]1=[C:9]([H:18])[C:8]([H:16])([H:17])[C:7]([H:15])=[C:6]1[H:14],115.06
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:19])([H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22],-7.5312
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11],62.9274
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[C:13]([C:14]([C:15]([C:16]([C:17]([C:18]([C:19]([C:20]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])([H:5])[C:13]([C:14]([C:15]([C:16]([C:17]([C:18]([C:19]([C:20]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22],0.0
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([O:5][O:6][H:17])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])[H:10])([H:7])([H:8])[H:9].[O:5][O:6][H:17],62.902256
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:15]([C:14]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])[H:8])([H:6])[H:7],45.6474
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:17])([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:15])[H:16])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][O:6][H:17],63.1784
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12](=[C:13][C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:13](=[C:12]([H:15])[H:16])[C:14]([H:17])([H:18])[H:19])[H:8])([H:6])[H:7],7.44752
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27](=[C:28]([C:29]([C:30]([H:35])([H:36])[H:37])[H:34])[H:33])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:29]([C:28](=[C:27]([H:31])[H:32])[H:33])([C:30]([H:35])([H:36])[H:37])[H:34])[H:15])([H:13])[H:14],53.2205
[S:0]=[C:1][S:2][H:3].[S:4]([c:5]1[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16])[H:11]>>[S:0]=[C:1]([S:2][H:3])[H:11].[S:4][c:5]1[c:6]([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]1[H:16],-1.2552
[C:0]([C:1](=[C:2]([C:3](=[C:4]([H:11])[H:12])[C:5](=[C:6]([H:14])[H:15])[H:13])[H:10])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])=[C:2]([H:10])[C:3](=[C:4]([H:11])[H:12])[C:5]([H:13])[C:6]1([H:14])[H:15],95.3952
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([O:12])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:13])[H:6])([H:4])[H:5].[C:11](=[O:12])([H:14])[H:15],0.0
